US08669266B2
(ii) 4-[2-((S)-2-Cyano-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid
To a solution of 772 mg 4-[2-((S)-2-Cyano-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester in 10 ml THF were added 2.1 ml aqueous NaOH (1 M) at 0° C. After 2 h the mixture was brought to pH 4 by using Amberlite IR-120 ion exchange resin. The reaction mixture was filtered and concentrated and the crude product purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 310 mg.

reactant | 4-[2-((S)-2-Cyano-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid methyl ester | 772 mg | COC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C#N)C | C19H19N3O4
reactant | NaOH | 1 M, 2.1 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-[2-((S)-2-Cyano-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | C(#N)[C@H]1N(CCC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O | C18H17N3O4
